US06184225B2
A solution of 7-(2-methoxyethoxy)-3,4-dihydroquinazolin-4-one (500 mg, 2.2 mmol) in thionyl chloride (15 ml) and DMF (0.1 ml) was heated at reflux for 3 hours. The volatiles were removed by evaporation to give 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride as a cream solid (520 mg, 83%).

reactant | 7-(2-methoxyethoxy)-3,4-dihydroquinazolin-4-one | 2.2 mmol, 500 mg | COCCOC1=CC=C2C(NC=NC2=C1)=O | C11H12N2O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride | 520 mg, 83% | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCOC | InChI=1S/C11H11ClN2O2.ClH/c1-15-4-5-16-8-2-3-9-10(6-8)13-7-14-11(9)12;/h2-3,6-7H,4-5H2,1H3;1H
